US06653290B2
2, 3, 9, 10-Tetrafluoro-12-(2, 3-di-O-benzyl-4-deoxy-6-iodo-β-D-glucopyranosyl)-6, 7, 12, 13-tetrahydro(5H)indolo[2, 3-a]pyrrolo[3, 4-c]carbazole-5, 7-dione
A mixture of 2, 3, 9, 10-tetrafluoro-12-(2, 3-di-O-benzyl-4-deoxy-β-D-glucopyranosyl)-6, 7, 12, 13-tetrahydro(5H)indolo[2, 3-a]pyrrolo[3, 4-c]carbazole-5, 7-dione (2.00 g, 2.76 mmol) and freshly activated and pulverized 4A molecular sieves (0.60 g) in 100 mL of dichloromethane was cooled at 5C. under Ar and triethylamine (0.77 mL, 5.52 mmol), DMAP (0.20 g, 1.64 mmol) and methanesulfonyl chloride (0.32 mL, 4.14 mmol) were added sequentially. The mixture was stirred at the same temperature for 2 h and then it was filtered and the filter-cake was washed with ethyl acetate. The flitrate was diluted with ethyl acetate (200 mL) and ether (50 mL) and then it was washed (H2O×2, brine), dried (MgSO4) and evaporated to give a yellow glass. This material was taken up in 100 mL of acetone, NaI ( ) was added and the mixture was heated to reflux under Ar for 18 h. The cooled mixture was then evaporated to dryness and the residue was taken up in 10 mL of ethyl acetate, washed (H2O×2, brine) dried (MgSO4) and evaporated. The resulting solid was chromatographed (SiO2/2-32% ethyl acetate-hexane) to give the title compound (0.90 g, 39%) as an amorphous yellow solid: 1H NMR (CDCl3, 400 MHz) δ10.17 (s, 1H), 9.10 (dd, J=10.6, 8.4 Hz, 1H), 9.02 (dd, J=10.6, 8.5 Hz, 1H), 7.55 (m, 2H), 7.35 (m, 6H), 6.92 (t, J=7.4 Hz, 1H), 6.76 (t, J=7.6 Hz, 2H), 6.20 (d, J=7.6 Hz, 2H), 5.75 (d, J=9.2 Hz, 1H), 4.77 and 4.71 (ab q, J=11.5 Hz, 2H), 4.13 (m, 2H), 3.99 (t, J=8.7 Hz, 1H), 3.80 (m, 2H 3.63 (d, J=9.0 Hz, 1H), 3.48 (d, J=10.8 Hz, 1H), 2.42 (m, 1H), 2.32 (m, 1H). MS (ESI−) m/e 832 (M−H)−.

reactant | 2, 3, 9, 10-tetrafluoro-12-(2, 3-di-O-benzyl-4-deoxy-β-D-glucopyranosyl)-6, 7, 12, 13-tetrahydro(5H)indolo[2, 3-a]pyrrolo[3, 4-c]carbazole-5, 7-dione | 2.76 mmol, 2.00 g | FC=1C(=CC2=C(C1)NC1=C2C2=C(C=3C4=CC(=C(C=C4N(C13)[C@H]1[C@H](OCC3=CC=CC=C3)[C@@H](OCC3=CC=CC=C3)C[C@H](O1)CO)F)F)C(NC2=O)=O)F | C40H29F4N3O6
reactant | triethylamine | 5.52 mmol, 0.77 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 4.14 mmol, 0.32 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaI | [Na+].[I-]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | DMAP | 1.64 mmol, 0.20 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 2, 3, 9, 10-Tetrafluoro-12-(2, 3-di-O-benzyl-4-deoxy-6-iodo-β-D-glucopyranosyl)-6, 7, 12, 13-tetrahydro(5H)indolo[2, 3-a]pyrrolo[3, 4-c]carbazole-5, 7-dione | 0.90 g, 39% | FC=1C(=CC2=C(C1)NC1=C2C2=C(C=3C4=CC(=C(C=C4N(C13)[C@H]1[C@H](OCC3=CC=CC=C3)[C@@H](OCC3=CC=CC=C3)C[C@H](O1)C(O)I)F)F)C(NC2=O)=O)F | C40H28F4IN3O6
